US08252816B2
Synthesis of 2-(cyclohexylthio)-6-(trifluoromethyl)nicotinonitrile
1.3 equivalents of NaH (4.9 g, 0.124 mol) were dissolved in 50 mL DMF under a nitrogen atmosphere. After the addition of 1.2 equivalents of cyclohexanethiol (14.2 mL, 0.116 mol), stirring was performed at room temperature for 1.5 h. The resultant suspension was cooled to 10° C. and 1 equivalent of 2-chloro-6-(trifluoromethyl)nicotinonitrile (20 g, 0.096 mol) in 50 mL DMF was added dropwise and stirred for 2 h at room temperature. The reaction mixture was quenched with sat. aq. NH4Cl soln., diluted with 1 l of water and extracted repeatedly with EA (3×200 mL). The combined organic phases were washed with a sat. aq. NaCl soln., dried over MgSO4 and evaporated under a vacuum. Purification performed by column chromatography (silica gel, 100-200 mesh, eluent: 2% EA in hexane) resulted in 26 g (93.8%) of product.

reactant | NaH | 0.124 mol, 4.9 g, 1.3 equivalents | [H-].[Na+]
reactant | cyclohexanethiol | 0.116 mol, 14.2 mL, 1.2 equivalents | C1(CCCCC1)S | C6H12S
reactant | 2-chloro-6-(trifluoromethyl)nicotinonitrile | 0.096 mol, 20 g, 1 equivalent | ClC1=C(C#N)C=CC(=N1)C(F)(F)F | C7H2ClF3N2
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | 2-(cyclohexylthio)-6-(trifluoromethyl)nicotinonitrile | 26 g, 93.8% | C1(CCCCC1)SC1=C(C#N)C=CC(=N1)C(F)(F)F | C13H13F3N2S
